US04053606
A mixture of 0.1 mole of 2,2,8-trimethyl-4H-1,3-dioxino[4,5-c]pyridine-5-carboxaldehyde, 0.11 mole of triphenylphosphine and 0.11 mole of sodium chlorodifluoroacetate in 100 ml. of diglyme is heated under nitrogen at 90° for 24 hours. The reaction mixture is then filtered and concentrated in vacuo. Chromatography of the residue on silica gel and elution with ether-petroleum ether (10-50%) gives 5-(2,2-difluorovinyl)-2,2,8-trimethyl-4H-1,3-dioxino[4,5-c]pyridine.

reactant | 2,2,8-trimethyl-4H-1,3-dioxino[4,5-c]pyridine-5-carboxaldehyde | 0.1 mole | CC1(OCC2=C(C(=NC=C2C=O)C)O1)C | C11H13NO3
reactant | triphenylphosphine | 0.11 mole | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium chlorodifluoroacetate | 0.11 mole | ClC(C(=O)[O-])(F)F.[Na+]
solvent | diglyme | COCCOCCOC | C6H14O3
product | 5-(2,2-difluorovinyl)-2,2,8-trimethyl-4H-1,3-dioxino[4,5-c]pyridine | FC(=CC1=C2C(=C(N=C1)C)OC(OC2)(C)C)F | C12H13F2NO2
